US08497383B2
Step 9 tert-Butyl (3R*,4S*)-3-(3-aminopropyl)-4-{(3-methylbutyl)[(4-nitrophenyl)sulfonyl]amino}pyrrolidine-1-carboxylate
To a solution of tert-butyl (3R*,4S*)-3-(3-azidopropyl)-4-{(3-methylbutyl)[(4-nitrophenyl)sulfonyl]amino}pyrrolidine-1-carboxylate (0.55 g, 1.05 mmol) in toluene (50 mL), PPh3 (0.28 g, 1.05 mmol) was added and the mixture was heated at reflux for 1.5 hours. The mixture was diluted with 10 mL THF, H2O was added (28 mg, 1.57 mmol) and the reaction was heated at reflux for additional 1.5 hours. The solvents were evaporated and the residue was purified by column chromatography on silica gel eluting with 5→10% MeOH in CH2Cl2 giving the title compound.

reactant | tert-butyl (3R*,4S*)-3-(3-azidopropyl)-4-{(3-methylbutyl)[(4-nitrophenyl)sulfonyl]amino}pyrrolidine-1-carboxylate | 1.05 mmol, 0.55 g | N(=[N+]=[N-])CCC[C@@H]1CN(C[C@H]1N(S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])CCC(C)C)C(=O)OC(C)(C)C | C23H36N6O6S
reactant | PPh3 | 1.05 mmol, 0.28 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
product | tert-Butyl (3R*,4S*)-3-(3-aminopropyl)-4-{(3-methylbutyl)[(4-nitrophenyl)sulfonyl]amino}pyrrolidine-1-carboxylate | NCCC[C@@H]1CN(C[C@H]1N(S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])CCC(C)C)C(=O)OC(C)(C)C | C23H38N4O6S
